US04546181
3-Amino-2,5-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-7(3H)-one
A 3.0 g portion of 3-amino-2-hydrazino-6-methyl-4(3H)-pyrimidinone, 20 ml of triethyl orthoacetate and 100 ml of n-butanol was reacted as described in Example 1, giving 2.36 g of the desired intermediate, mp 287°-289° C.

reactant | 3-amino-2-hydrazino-6-methyl-4(3H)-pyrimidinone | NN1C(=NC(=CC1=O)C)NN | C5H9N5O
reactant | triethyl orthoacetate | 20 ml | C(C)(OCC)(OCC)OCC | C8H18O3
solvent | n-butanol | 100 ml | C(CCC)O | C4H10O
product | 3-Amino-2,5-dimethyl[1,2,4]triazolo[1,5-a]pyrimidin-7(3H)-one | 2.36 g | NN1C(=NN2C1=NC(=CC2=O)C)C | C7H9N5O
